US06693123B2
To a solution in DMF (50 mL) of 3-hydroxypyridine (4.76 g, 50 mmol) was added 1,1-diazabicyclo[2.2.2]octane (6.80 g, 150 mmol) and dimethylthiocarbamoyl chloride (18.5 g, 150 mmol) and the reaction mixture was stirred for 0.5 hours at ambient temperature and 18 hours at 55° C. The reaction mixture was cooled to ambient temperature and poured into ether. The ethereal solution was washed with aqueous 2N sodium hydroxide (2×), water (2×) and brine, dried, filtered and concentrated in vacuo. Chromatography on silica gel (1:1 ethyl acetate-hexane) gave 3-dimethylthiocarbamoylpyridine (5.46 g).

reactant | 3-hydroxypyridine | 50 mmol, 4.76 g | OC=1C=NC=CC1 | C5H5NO
reactant | dimethylthiocarbamoyl chloride | 150 mmol, 18.5 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | ether | CCOCC | C4H10O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-dimethylthiocarbamoylpyridine | 5.46 g | CN(C(=S)C=1C=NC=CC1)C | C8H10N2S
